US08067408B2
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}oxy)methyl]-N-{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}benzamide
To a solution of 5-(chloromethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine (73.9 mg, 0.229 mmol) in DMF (0.5 mL) was added 1,1-dimethylethyl 4-({2′-fluoro-5′-[({[3-(hydroxymethyl)phenyl]carbonyl}-amino)methyl]-3-biphenylyl}methyl)-1-piperazinecarboxylate (122 mg, 0.229 mmol). The mixture was stirred at room temperature for 15 h then more 5-(chloro-methyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine (73.9 mg, 0.229 mmol) was added. The mixture was stirred for another 24 h. The reaction was quenched with H2O (1 drop), diluted with MeOH (0.5 mL), purified using a Gilson HPLC (with TFA). To the Fractions containing the product was added TFA (1 drop in each tube ˜12 mL) and solvent was concentrated on a GeneVav EZ-2 evaporator. The compound was purified again with a Gilson HPLC (with TFA) and concentrated on GeneVav EZ-2 evaporator. Residue was basified with an amine cartridge to afford 0.0095 g (6%) of the title compound. LC-MS m/z 720 (M+H)+; 1H-NMR (400 MHz, CD3OD) δ ppm 1.29 (t, J=7.65 Hz, 3 H) 1.50 (t, J=7.28 Hz, 3 H) 1.62-1.75 (m, 2 H) 1.97-2.06 (m, 2 H) 2.96 (q, J=7.53 Hz, 2 H) 3.38-3.47 (m, 4 H) 3.47-3.54 (m, J=4.52 Hz, 4 H) 3.56-3.64 (m, 2 H) 3.85-3.93 (m, 2 H) 4.25-4.33 (m, 1 H) 4.36 (s, 2 H) 4.47 (q, J=7.28 Hz, 2 H) 4.60 (s, 2 H) 4.70 (s, 2 H) 4.83 (s, 2 H) 7.19 (dd, J=10.67, 8.41 Hz, 1H) 7.37-7.43 (m, 1 H) 7.46-7.59 (m, 5 H) 7.65 (d, J=6.78 Hz, 1 H) 7.72 (s, 1 H) 7.81 (d, J=7.78 Hz, 1 H) 7.89 (s, 1 H) 8.27 (s, 1 H).

reactant | 5-(chloromethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 0.229 mmol, 73.9 mg | ClCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H23ClN4O
reactant | 1,1-dimethylethyl 4-({2′-fluoro-5′-[({[3-(hydroxymethyl)phenyl]carbonyl}-amino)methyl]-3-biphenylyl}methyl)-1-piperazinecarboxylate | 0.229 mmol, 122 mg | FC1=C(C=C(C=C1)CNC(=O)C1=CC(=CC=C1)CO)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C31H36FN3O4
reactant | 5-(chloro-methyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine | 0.229 mmol, 73.9 mg | ClCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H23ClN4O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}oxy)methyl]-N-{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}benzamide | 0.0095 g, 6% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)COCC=2C=C(C(=O)NCC=1C=C(C(=CC1)F)C1=CC(=CC=C1)CN1CCNCC1)C=CC2)CC | C42H50FN7O3
